US05496843
10 ) 3-Bromo-6-chloro-4-(4-tert-butoxycarbonyl-3-butenyl)indole-2-carboxylic acid methyl ester
To a solution of 6-chloro-4-(4-tert-butoxycarbonyl-3-butenyl)indole-2-carboxylic acid methyl ester (12.0 g, 33 mmol) in DMF (120 mL) was added slowly a solution of NBS (5.87 g, 33 mmol) in DMF (60 mL) at 0° C. The mixture was stirred for 1 h at 0° C., diluted with aqueous NaHCO3, and extracted with 2:1 ethyl acetate/toluene. The extract was washed with water and brine, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography with 8:1 to 5:1 hexane/ethyl acetate to give 13.3 g of the title compound (91%): 1H NMR (CDCl3) δ9.15 (bs, 1H), 7.28 (d, 1H, J=1.8 Hz), 6.97 (dt, 1H, J=15.8, 6.9 Hz), 6.93 (d, 1H, J=1.8 Hz), 5.83 (dt, 1H, J=15.8, 1.7 Hz), 3.99 (s, 3H), 3.32 (dd, 2H, J=8.3, 7.9 Hz), 2.57 (m, 2H), 1.50 (s, 9H).

reactant | 6-chloro-4-(4-tert-butoxycarbonyl-3-butenyl)indole-2-carboxylic acid methyl ester | 33 mmol, 12.0 g | COC(=O)C=1NC2=CC(=CC(=C2C1)CCC=CC(=O)OC(C)(C)C)Cl | C19H22ClNO4
reactant | NBS | 33 mmol, 5.87 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-Bromo-6-chloro-4-(4-tert-butoxycarbonyl-3-butenyl)indole-2-carboxylic acid methyl ester | 13.3 g, 91% | COC(=O)C=1NC2=CC(=CC(=C2C1Br)CCC=CC(=O)OC(C)(C)C)Cl | C19H21BrClNO4
